US04245097
A solution of 16 g. of 11-bromoundecanol, 9.9 g. of ethyl 4-aminobenzoate, and 6.0 g. of triethylamine in 50 ml. of hexamethylphosphoramide is stirred at 70° C. under argon for 128 hours. The resulting solution is cooled, diluted with water, and filtered. Recrystallization of the solid from acetonitrile affords ethyl 4-(11-hydroxyundecylamino)benzoate as a white, crystalline solid.

reactant | 11-bromoundecanol | BrCCCCCCCCCCCO | C11H23BrO
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | ethyl 4-(11-hydroxyundecylamino)benzoate | OCCCCCCCCCCCNC1=CC=C(C(=O)OCC)C=C1 | C20H33NO3
